US06498251B1
Synthesis Example 4b 3-t-Butoxycarbonyl-1,2,3,4,4a,5-hexahydropyrazino[2,1-c]-1,4-benzthiazine
A 13.47 g (97.43 mmol) portion of potassium carbonate was added to DMF solution (360 ml) containing 11.59 g (32.48 mmol) of 3-(t-butoxycarbonyl)aminomethyl-4-chloroacetyl-3,4-dihydro-2H-1,4-benzthiazine and stirred at room temperature overnight and then at 60° C. for 3 hours. This was returned to room temperature, mixed with cool water and extracted with ethyl acetate. The extract was dried (Na2SO4) and then concentrated under a reduced pressure. The thus dried residue under a reduced pressure was dissolved in 180 ml of tetrahydrofuran and cooled to 0° C. This was mixed with 4.48 ml (48.72 mmol) of borane-dimethyl sulfide complex and stirred at 0° C. for 2 hours and then at room temperature for 2 hours. Cool water was added dropwise to the reaction solution which was subsequently stirred for 30 minutes and then extracted with ethyl acetate. The extract was washed with dilute hydrochloric acid and dried (Na2SO4), and then the solvent was removed by evaporation under a reduced pressure. The thus obtained residue was purified by a silica gel column chromatography (650 cc; elution by ethyl acetate-hexane=1:4) and further recrystallized from ethyl acetate-hexane to obtain 5.04 g of the title compound (51% in yield).

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 360 ml | CN(C)C=O | C3H7NO
reactant | 3-(t-butoxycarbonyl)aminomethyl-4-chloroacetyl-3,4-dihydro-2H-1,4-benzthiazine | 32.48 mmol, 11.59 g | C(C)(C)(C)OC(=O)NCC1CSC2=C(N1C(CCl)=O)C=CC=C2 | C16H21ClN2O3S
solvent | water | O | H2O
product | 3-t-Butoxycarbonyl-1,2,3,4,4a,5-hexahydropyrazino[2,1-c]-1,4-benzthiazine | 5.04 g, 51% | C(C)(C)(C)OC(=O)N1CC2CSC3=C(N2CC1)C=CC=C3 | C16H22N2O2S
